US04471116
A solution of 1-benzyloxy-4-(3-methylaminopropoxy)benzene hydrochloride (8.4 g) in acetic acid (250 ml) was hydrogenated over 0.5 g of 10% palladium on carbon in a Parr apparatus (50°; initial pressure 50 psi). The reaction was completed within 0.4 hours and after the catalyst was removed by filtration, the solvent was distilled in vacuo. The residue was crystallized from methanol-ethyl acetate to give 4.8 g (80% of 4-(3-methylaminopropoxy)phenol hydrochloride, mp 167°-169°.

reactant | 1-benzyloxy-4-(3-methylaminopropoxy)benzene hydrochloride | 8.4 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCNC
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(3-methylaminopropoxy)phenol hydrochloride | 80% | Cl.CNCCCOC1=CC=C(C=C1)O | InChI=1S/C10H15NO2.ClH/c1-11-7-2-8-13-10-5-3-9(12)4-6-10;/h3-6,11-12H,2,7-8H2,1H3;1H
